US06555557B1
3-(Pyridin-3-yl)propanal (10 g, 74 mmol) is dissolved in THF (200 ml), and thereto is added a solution of trimethylsilylmethyl magnesium chloride in diethyl ether (100 ml, 100 mmol) under ice-cooling, and the mixture is stirred for 15 minutes. The reaction is quenched with a saturated brine (10 ml), and the mixture is extracted with ethyl acetate (300 ml×2), washed with a saturated brine (200 ml×2), dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. To the residue are added THF (50 ml) and conc. sulfuric acid (5 ml), and the mixture is heated under reflux for 20 minutes. After being allowed to cool, the reaction solution is neutralized with a saturated aqueous sodium hydrogen carbonate solution, and extracted with ethyl acetate (200 ml×2). The organic layer is washed with a saturated brine (200 ml×2), dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (eluent: ethyl acetate/hexane) to give 3-(3-butenyl)pyridine (6.5 g) as a pale yellow oil.

reactant | 3-(Pyridin-3-yl)propanal | 74 mmol, 10 g | N1=CC(=CC=C1)CCC=O | C8H9NO
reactant | trimethylsilylmethyl magnesium chloride | C[Si](C)(C)C[Mg]Cl
reactant | diethyl ether | 100 mmol, 100 ml | C(C)OCC | C4H10O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 3-(3-butenyl)pyridine | 6.5 g | C(CC=C)C=1C=NC=CC1 | C9H11N
